US06699873B1
2-[2-(5-Bromo-2-methoxy-phenylsulfanylmethyl)-phenyl]-1,4,5,6-tetrahydro-pyrimidine.
9, 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-thiobenzamide. As shown in Scheme 9, hydrogen sulfide gas was bubbled into a solution of 2.75 g (7.8 mmol) of 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-benzonitrile in 20 mL of ethanol and triethylamine (5:4 v/v) for 10 minutes. The solution was then heated to 80° C. in a sealed pressure tube for 5 hours. The reaction mixture was diluted with water and extracted with ethyl acetate twice. The organic extracts were washed with brine, dried (MgSO4), filtered and evaporated to give 3.0 g of crude product which was used directly in the next step.

reactant | 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-thiobenzamide | BrC=1C=CC(=C(C1)CCC1=C(C(=S)N)C=CC=C1Cl)OC | C16H15BrClNOS
reactant | hydrogen sulfide | S | H2S
reactant | 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-benzonitrile | 7.8 mmol, 2.75 g | BrC=1C=CC(=C(C1)CCC1=C(C#N)C=CC=C1Cl)OC | C16H13BrClNO
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-[2-(5-Bromo-2-methoxy-phenylsulfanylmethyl)-phenyl]-1,4,5,6-tetrahydro-pyrimidine | 3.0 g | BrC=1C=CC(=C(C1)SCC1=C(C=CC=C1)C=1NCCCN1)OC | C18H19BrN2OS
